US04226876
Preparation of 1-N-phenylcarbamoyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline
A 17% solution of phosgene in toluene (3.2 g containing 0.5521 g., 0.00549 moles COCl2) in dry chloroform (15 ml) was added slowly with stirring at 0° C. to a solution of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline (2.40 g, 0.0115 moles) in dry chloroform (20 ml). When addition was complete the reaction mixture was left at ambient temperature for 2 hours, diluted with an equal volume of dry diethylether and rapidly filtered. The filtrate, which contained the N-chlorocarbamoyl adduct of 2-(2,3-dimethylphenoxymethyl)-2-imidazoline, was treated with freshly distilled dry aniline (0.664 g, 0.00714 moles) and the mixture left at ambient temperature overnight at which time tlc showed that the major compound was the desired product. The mixture was evaporated to dryness in vacuo and the residue taken up in a mixture of aqueous sodium carbonate and dichloromethane. The organic layer was washed with water, dried over magnesium sulphate and evaporated to dryness to give a residue which was purified as described in (A) above to give 1-N-phenylcarbamoyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline, identical with that obtained in (A) above.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | toluene | 0.00549 moles, 3.2 g | C1(=CC=CC=C1)C | C7H8
reactant | 2-(2,3-dimethylphenoxymethyl)-2-imidazoline | 0.0115 moles, 2.40 g | CC1=C(OCC=2NCCN2)C=CC=C1C | C12H16N2O
reactant | aniline | 0.00714 moles, 0.664 g | NC1=CC=CC=C1 | C6H7N
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
solvent | diethylether | C(C)OCC | C4H10O
product | 1-N-phenylcarbamoyl-2-(2,3-dimethylphenoxymethyl)-2-imidazoline | C1(=CC=CC=C1)NC(=O)N1C(=NCC1)COC1=C(C(=CC=C1)C)C | C19H21N3O2
